US06054588
Analogously to Example 1a,b, after reacting 1-(2,4-dichlorophenyl)-2-[1,2,4]triazol-1-yl-ethanone with cyclohexyl triflate there was obtained 1-[2-(2,4-dichloro-phenyl)-1-cyclohexyloxy-vinyl]-1H-[1,2,4]triazole as a white solid with m.p. 84° C.

reactant | 1-(2,4-dichlorophenyl)-2-[1,2,4]triazol-1-yl-ethanone | ClC1=C(C=CC(=C1)Cl)C(CN1N=CN=C1)=O | C10H7Cl2N3O
reactant | cyclohexyl triflate | O(S(=O)(=O)C(F)(F)F)C1CCCCC1 | C7H11F3O3S
product | 1-[2-(2,4-dichloro-phenyl)-1-cyclohexyloxy-vinyl]-1H-[1,2,4]triazole | ClC1=C(C=CC(=C1)Cl)C=C(OC1CCCCC1)N1N=CN=C1 | C16H17Cl2N3O
